************************************************************************
* auCdl Netlist:
* 
* Library Name:  sar_adc
* Top Cell Name: sample_hold_3
* View Name:     schematic
* Netlisted on:  Apr 25 16:48:37 2016
************************************************************************

.INCLUDE  /projects/nanos/design_kit/TSMC90nmLPRF_616OA/Calibre/lvs/source_added
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM



************************************************************************
* Library Name: tsmcN90rf
* Cell Name:    inv
* View Name:    schematic
************************************************************************

.SUBCKT inv G Gb IN OUT P Pb
*.PININFO G:I Gb:I IN:I P:I Pb:I OUT:O
MNM1 OUT IN G Gb nch l=nl w=nw m=1*nf
MPM1 OUT IN P Pb pch l=pl w=pw m=1*pf
.ENDS

************************************************************************
* Library Name: sar_adc
* Cell Name:    sample_hold_3
* View Name:    schematic
************************************************************************

.SUBCKT sample_hold_3 GND PHI_1 VDD VIN VOUT
*.PININFO PHI_1:I VIN:I VOUT:O GND:B VDD:B
MM2 VIN net012 VOUT GND nch l=100n w=200n m=1
XC1 VOUT GND mimcap_2p0_sin lt=22.065u wt=22.065u m=1
XI1 GND GND PHI_1 net012 VDD VDD / inv pf=1 pw=200n pl=100n nf=1 nw=200n 
+ nl=100n
MM0 VIN PHI_1 VOUT VDD pch l=100n w=200n m=1
.ENDS

